US09255110B2
A mixture of pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid ethyl ester (40 mg) and an aqueous solution of sodium hydroxide (6 M, 1 mL) in a mixture of tetrahydrofuran and methanol (1/1, 1 mL) was heated at 70° C. for 1 hour. The reaction mixture was then cooled, acidified by addition of an aqueous solution of hydrochloric acid (6 M) and evaporated under reduced pressure. The residue was dissolved in a mixture of dichloromethane and water (10/1, 5.5 mL), the organic layer was separated, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give 15 mg of pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid.

reactant | pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid ethyl ester | 40 mg | C(C)OC(=O)C1=CC=C2C=NC=NN21 | C9H9N3O2
reactant | sodium hydroxide | 6 M, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | pyridine water | 1 mL | N1=CC=CC=C1.O
product | pyrrolo[2,1-f][1,2,4]triazine-7-carboxylic acid | 15 mg | N=1N2C(C=NC1)=CC=C2C(=O)O | C7H5N3O2
